US05395970
(b) Preparation of 3-(3-cyanophenyl)-1-propanol
Into an oven-dried 500 ml flask with 2-neck adapter and stirring bar, 12.9 g of 3-(3-cyanophenyl)propanoic acid (the product of step (a)) was placed. The system was flushed with argon gas; then 84 ml tetrahydrofuran was added. The resulting mixture was stirred until the acid was dissolved. After cooling for about ten minutes with an ice bath, 88 ml borane-tetrahydrofuran was added in two 44 ml portions over a 20 minute period. The reaction mixture was stirred for 20 minutes in an ice bath and then quenched by the addition of about 17 ml water dropwise. The mixture was stripped to give an oil with white crystals. Ether (200 ml) and a solution of 8.8 g (0.22 mole) sodium hydroxide in 150 ml water were added. The organic phase was separated. The aqueous layer was extracted with an additional 35 ml ether. The combined ether extracts were dried over sodium sulfate, filtered, and stripped. The resulting oil was distilled in a Kugelrohr apparatus, the fraction bpt. 95°-110° C. was collected to give 11.5 g of the above-identified product.

reactant | 3-(3-cyanophenyl)propanoic acid | 12.9 g | C(#N)C=1C=C(C=CC1)CCC(=O)O | C10H9NO2
reactant | Ether | 200 ml | CCOCC | C4H10O
reactant | sodium hydroxide | 0.22 mole, 8.8 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 3-(3-cyanophenyl)-1-propanol | 11.5 g | C(#N)C=1C=C(C=CC1)CCCO | C10H11NO
